US05681832
To a solution of 4,4'-diaminostilbene-2,2'-disulfonic acid disodium salt (2.5 mmol, 1.036 g) in DMF (170 mL) a solution of 8-hydroxyquinoline-7-carboxylic acid (5.0mmol, 0.946 g) in DMF (140 mL) was added. To the mixture, 1-hydroxybenzotriazole (HBT) (6.0 mmol, 0.811 g) was added followed by 1,3-dicyclohexylcarbocilmide (DCC) (12.0 mmol, 2.476 g). The reaction mixture was stirred at room temperature for 6 days. Then, the solution was concentrated under reduced pressure. The precipitate was filtered off. The filtrate was evaporated in vacuo. To the residue, water and methanol (1:4) were added, and the pH was adjusted to 8. The insoluble material was filtered off, and the filtrate was evaporated under reduced pressure. The residue was extracted with choloroform (3×). The solid was collected by filtration, and treated with methanol. Insoluble material was filtered off and dried to give 0.8 g of pure, desired diamide. The methanol solution was used for fractionation on a Sephadex LH-20 column, with the eluent being methanol. This method allowed for the separation of an additional 0.59 g pure diamide (yield 73.5%) and traces of monoamide.

reactant | 4,4'-diaminostilbene-2,2'-disulfonic acid disodium salt | 2.5 mmol, 1.036 g | [Na+].[Na+].NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)[O-])S(=O)(=O)[O-]
reactant | 8-hydroxyquinoline-7-carboxylic acid | 5.0mmol, 0.946 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | 1-hydroxybenzotriazole | 6.0 mmol, 0.811 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | DMF | 170 mL | CN(C)C=O | C3H7NO
reactant | DMF | 140 mL | CN(C)C=O | C3H7NO
product | diamide | CN(C)C(=O)N=NC(=O)N(C)C | C6H12N4O2
